US07488740B2
6. 4-Chloro-2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]-[1,5]naphthyridine
Add sodium methoxide (4M, 0.45 mL, 1.8 mmol) to a solution of 2,4-dichloro-7-[3-(trifluoromethyl)pyrdin-2yl]-1,5-naphthyridine (575 mg, 1.6 mmol) in THF (10 mL). Stir at room temperature for 1 hour, add water (15 mL) and extract with ethyl acetate. Wash the combined organic extracts with brine, dry (MgSO4) and evaporate. Purify the residue by flash chromatography (elute with 1:2 hexane:ether) to give the title compound.

reactant | sodium methoxide | 1.8 mmol, 4M, 0.45 mL | C[O-].[Na+]
reactant | 2,4-dichloro-7-[3-(trifluoromethyl)pyrdin-2yl]-1,5-naphthyridine | 1.6 mmol, 575 mg | ClC1=NC2=CC(=CN=C2C(=C1)Cl)C1=NC=CC=C1C(F)(F)F | C14H6Cl2F3N3
reactant | water | 15 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]-[1,5]naphthyridine | ClC1=CC(=NC2=CC(=CN=C12)C1=NC=CC=C1C(F)(F)F)OC | C15H9ClF3N3O
